US04713484
Under the reaction conditions described in Example 1, 64 ml KOH and 19.2 ml PPh3 were added over 43 min. After five more minutes, the reactor was cooled and vented. A 92% yield of potassium phenylacetate and 4% methyl phenylacetate was obtained on a nearly quantitative conversion. 98% of the stiochiometric amount of KOH was added.

reactant | KOH | 64 ml | [OH-].[K+]
reactant | PPh3 | 19.2 ml | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | methyl phenylacetate | C1(=CC=CC=C1)CC(=O)OC | C9H10O2
product | potassium phenylacetate | 92% yield | C1(=CC=CC=C1)CC(=O)[O-].[K+] | InChI=1S/C8H8O2.K/c9-8(10)6-7-4-2-1-3-5-7;/h1-5H,6H2,(H,9,10);/q;+1/p-1
